US04446323
5-[(2,6-dimethoxyphenyl)methyl]-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine
Lithium aluminum hydride (1 g.) was dissolved in 100 ml. of anhydrous diethyl ether. To the stirred solution was added over a period of fifteen minutes a solution of 6a,7,8,9-tetrahydro-5-[(2,6-dimethoxyphenyl)methyl]pyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (1 g., 0.003 mole) in 50 ml. of dry tetrahydrofuran. The reaction mixture was refluxed for eighteen hours and was worked up by adding wet ether, filtering, drying and evaporating in vacuo. The residue (m.p. 110°-112° C.) was dissolved in ethanol and treated with diethyl ether saturated with hydrogen chloride. The separated solid was recrystallized from methanol to afford 0.7 g. (67% yield) of the title compound as the hydrochloride salt, m.p. 211°-213° C.

reactant | Lithium aluminum hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6a,7,8,9-tetrahydro-5-[(2,6-dimethoxyphenyl)methyl]pyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.003 mole, 1 g | COC1=C(C(=CC=C1)OC)CN1C(C2N(C3=C1C=CC=N3)CCC2)=O | C19H21N3O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[(2,6-dimethoxyphenyl)methyl]-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine | 67% yield | COC1=C(C(=CC=C1)OC)CN1CC2N(C3=C1C=CC=N3)CCC2 | C19H23N3O2
